US04725605
2-Chlorobenzimidazole is reacted with 2-bromoacetyl-4-ethylthio-3-methylpyridine in the presence of K2CO3 to give 2-chloro-1-[2-[4-ethylthio-3-methylpyridyl])-2-oxoethyl]benzimidazole. This is reacted with thiourea and treated with NH4OH to give 2-mercapto-1-(2-(2-(4-ethylthio-3-methylpyridyl))-2-oxoethyl)benzimidazole

reactant | 2-Chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 2-bromoacetyl-4-ethylthio-3-methylpyridine | BrCC(=O)C1=NC=CC(=C1C)SCC | C10H12BrNOS
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
